US07576089B2
tert-Butyl [(3S)-1-(Piperidin-4-ylcarbonyl)pyrrolidin-3-yl]carbamate
A mixture of benzyl 4-({(3S)-3-[(tert-butoxycarbonyl)amino]pyrrolidin-1-yl}carbonyl)piperidine-1-carboxylate (7.5 g, 17 mmol) and palladium on carbon (800 mg, 8 mmol) in methanol (100 mL) was shaken under hydrogen at 50 psi overnight. The mixture was filtered through celite and the filtrate was concentrated to give 5.1 g of product as a white solid. MS (M+H) 298.2.

reactant | benzyl 4-({(3S)-3-[(tert-butoxycarbonyl)amino]pyrrolidin-1-yl}carbonyl)piperidine-1-carboxylate | 17 mmol, 7.5 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(CC1)C(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C23H33N3O5
catalyst | palladium on carbon | 8 mmol, 800 mg | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | tert-Butyl [(3S)-1-(Piperidin-4-ylcarbonyl)pyrrolidin-3-yl]carbamate | 5.1 g | N1CCC(CC1)C(=O)N1C[C@H](CC1)NC(OC(C)(C)C)=O | C15H27N3O3
